data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
535,584,[CH3:1][C:2]#[C:3][C:4](=[O:5])[O:6][CH3:7].[CH3:8][O:9][C:10](=[O:11])[CH:12]=[N+:13]([CH3:14])[C-:15]([C:16]([CH3:17])=[O:18])[C:19]([CH3:20])=[O:21]>>[CH3:1][C:2]1=[C:3]([C:4](=[O:5])[O:6][CH3:7])[C:15]([C:16]([CH3:17])=[O:18])([C:19]([CH3:20])=[O:21])[N:13]([CH3:14])[CH:12]1[C:10]([O:9][CH3:8])=[O:11],water,298.15,27.53617654165452,-40.28696827059704
3710,4237,[CH2-:10][O+:11]=[C:12]([C:13]([CH3:14])=[O:15])[C:16](=[O:17])[NH:18][CH3:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:12]([C:13]([CH3:14])=[O:15])([C:16](=[O:17])[NH:18][CH3:19])[O:11][CH2:10]1,water,298.15,3.2822678218331496,-41.39313561015845
3769,4317,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[N:5]#[C:6][N-:7][O+:8]=[C:9]([c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1)[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[N:7]([C:6]#[N:5])[O:8][C:9]1([c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1)[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,19.9363095355276,-21.946553772567484
4897,5581,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[CH:19]=[NH+:20][C-:21]([C:22]#[N:23])[C:24]([CH3:25])=[O:26]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:21]([C:22]#[N:23])([C:24]([CH3:25])=[O:26])[NH:20][CH:19]2[C:17]([NH:16][CH3:15])=[O:18],water,298.15,26.574893238310057,-7.110099180539483
5000,5688,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[C:18]([C:19]([CH3:20])=[O:21])=[N+:22]([CH3:23])[C-:24]([CH3:25])[C:26]#[N:27]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:24]([CH3:25])([C:26]#[N:27])[N:22]([CH3:23])[C:18]2([C:16]([CH3:15])=[O:17])[C:19]([CH3:20])=[O:21],water,298.15,33.157298750561644,4.630167128253906
4273,4887,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[N+:17]([CH3:18])[C-:19]([C:20]#[N:21])[C:22]#[N:23].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:19]([C:20]#[N:21])([C:22]#[N:23])[N:17]([CH3:18])[C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,19.704470439547624,-17.47066264313185
3531,4029,[CH3:10][C:11]#[N+:12][N-:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:11]([CH3:10])=[N:12][N:13]1[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,15.073672885388364,-31.2421320353656
1527,1686,[CH3:16][NH:17][C:18](=[O:19])[c:20]1[o:21][c:22](=[O:23])[n-:24][n+:25]1[CH3:26].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([C:7]([F:8])([F:9])[F:10])([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[N:24]1[C:22](=[O:23])[O:21][C:20]2([C:18]([NH:17][CH3:16])=[O:19])[N:25]1[CH3:26],water,298.15,58.40807954781192,29.178199608469026
1050,1145,[CH3:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[C:23]([CH3:24])=[O:25].[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][C:7](=[O:8])[O:9][CH3:10]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[C:14]([C:12]([CH3:11])=[O:13])([C:23]([CH3:24])=[O:25])[N:15]=[C:16]1[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,15.666637304844189,-50.28234646207199
3147,3549,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][O:6][C:7](=[O:8])[C:9]([CH3:10])=[O+:11][CH-:12][C:13]([CH3:14])=[O:15]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[CH:12]([C:13]([CH3:14])=[O:15])[O:11][C:9]1([C:7]([O:6][CH3:5])=[O:8])[CH3:10],water,298.15,11.796340418390558,-44.79826530562213
1878,2082,[CH3:15][NH:16][C:17](=[O:18])[CH-:19][NH+:20]=[C:21]([C:22](=[O:23])[O:24][CH3:25])[C:26](=[O:27])[O:28][CH3:29].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[CH:19]([C:17]([NH:16][CH3:15])=[O:18])[NH:20][C:21]3([C:22](=[O:23])[O:24][CH3:25])[C:26](=[O:27])[O:28][CH3:29],water,298.15,20.801396973352063,-35.779109042114854
3723,4251,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[C:14]([CH3:15])=[NH+:16][C-:17]([CH3:18])[CH3:19]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:14]([C:12]([CH3:11])=[O:13])([CH3:15])[NH:16][C:17]2([CH3:18])[CH3:19],water,298.15,26.17570286002991,-16.845357244622573
